2191-08-18 05:54:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   Hypocalcemic O/N despite calcium in dialysate. Repleted.
   Hypokalemic. Now on K sliding scale.
   Subjective:
   Feels better this AM. Abdominal pain much improved, though still tender
   to deep palpation diffusely. No nausea or vomiting. Breathing is
   comfortable. Back pain is chronic and unchanged.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-17**] 12:30PM
   Today is day 3
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-17**]
   Heparin Sodium (Prophylaxis) - [**2191-8-18**]
   Flowsheet Data as of  [**2191-8-18**] 02:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 87 (77 - 118) bpm
   BP: 119/72(81) {91/48(59) - 139/114(117)} mmHg
   RR: 15 (10 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 16 (8 - 21)mmHg
   CO/CI (Fick): (6.8 L/min) / (2.9 L/min/m2)
   SvO2: 67%
   Total In:
                                                                  1,290 mL
                                                                    480 mL
   PO:
                                                                    100 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,190 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                   -850 mL
   Urine:
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -1,710 mL
                                                                  1,330 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Thin,
   No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : slight expiratory wheezes, No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Distended, Tender: mild,
   diffuse tenderness, No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing, edema
   to ankles bilaterally
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   10.1 g/dL
   92 mg/dL
   10.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   42 mg/dL
   98 mEq/L
   138 mEq/L
   32.0 %
   12.7 K/uL
        [image002.jpg]
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Differential-Neuts:54.0 %, Band:24.0 %, Lymph:8.0 %, Mono:0.0 %,
   Eos:2.0 % ([**8-17**], 5:15am)
                             [**2191-8-16**]  09:20 PM
                             [**2191-8-17**]  05:15 AM
                             [**2191-8-17**]  03:52 PM
                             [**2191-8-17**]  09:13 PM
                             [**2191-8-17**]  10:28 PM
                             [**2191-8-18**]  02:23 AM
   WBC
   13.2
   13.8
   12.7
   Hct
   34.0
   34.9
   33.0
   34
   32.0
   Plt
   399
   336
   354
   Cr
   11.9
   10.5
   TropT
   0.25
   Glucose
   59
   165
   129
   115
   92
   Other labs:
   PT / PTT / INR:15.4/38.4/1.4
   CK / CKMB / Troponin-T:763/11/0.25
   Lactic Acid:1.5 mmol/L (from 1.9, 4.5, 3.8, 3.4)
   LDH:247 IU/L
   CPK: 763 (from 925, 509, 333)
   PD fluid: WBC = 2055, RBC = 35, Polys = 98, Lymphs = 2, Monos = 0
   Vanco: 23.5 (ref range = [**10-24**])
   Micro:
[**2191-8-16**] 10:20 am BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
   Aerobic Bottle Gram Stain (Final [**2191-8-17**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2191-8-17**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
[**2191-8-16**] 9:00 am BLOOD CULTURE
   Blood Culture, Routine (Pending):
[**2191-8-16**] 11:45 am PERITONEAL FLUID
   GRAM STAIN (Final [**2191-8-16**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CHAINS.
   FLUID CULTURE (Preliminary):
      BETA STREPTOCOCCUS GROUP B.    SPARSE GROWTH.
   CXR:
   [**8-16**]
   No significant change with scattered areas of lung fibrosis better
   visualized
   on a prior CT chest. No definite evidence of pneumonia or CHF on this
   limited
   study.
   CT abdomen and pelvis without contrast:
   RLL consolidation increased. Abdomenal ascites. Equivocal bowel wall
   thickening.
   Assessment and Plan
   This is a 58 yo M with ESRD on HD since [**3-8**] then PD since [**9-10**], DM2,
   HTN, diastolic CHF, and h/o MSSA peritonitis in [**6-11**], who presented to
   ED with new onset abdominal pain since this morning, associated with
   nausea/vomiting and fevers. He was admitted to the ICU after
   parcentesis was suspicious for bacterial peritonitis.
   # Bacterial peritonitis with bacteremia:  Patient presents with
   symptoms on abdominal pain, fevers, N/V and paracentesis consistent
   with bacterial peritonitis.  He was originally started on
   Vanco/Ceftazidime for treatment of infection, but ceftazidime was
   d/c
ed one day later.  Vanc trough 23.5 this AM. Gram stain and
   cultures from group B strep in pairs and chains. Sensitivities not yet
   available. Abdominal pain significantly improved. Renal is following.
   - Continue periotoneal dialysis q6h with 4.25% diasylate.
   - f/u sensitivities from [**8-16**] and blood cultures from [**8-17**].
   - f/u PD fluid cell count and culture sent this AM.
   - Vanco 2 gm daily in PD fluid, for 6h duration, beginning tomorrow.
   - Re-check vanco level tomorrow AM (them once weekly); redose vanco for
   levels below 15.
   - D/c central line.
   # Episodes of tachycardia: Assymptomatic and self-resolving. Likely a
   chronic arrhythmia; multifocal atrial tachycardia?
   - Continue to monitor.
   # Hypotension: Likely due to low vascular tone in the setting of
   sepsis, and challenges of fluid balance with PD treatments. Has
   maintained SBP above 90 without pressors or fluid bolus since coming to
   the ICU.
   - Monitor blood pressure.
   # Hypoxemia:  CXR showed no sign of infiltrates or pulmonary edema.
   Likely from COPD given + tobacco use. Slight expiratory wheezes, which
   he received albuterol for yesterday. Breathing is comfortable and
   oxygenation descent (94%) on room air.
   - Continue albuterol PRN wheezing.
   # ESRD on PD :
   - Peritoneal dialysis q6h with 4.24% diasylate.
   - Heparin with PD.
   - cont home Renagel, Calcitriol, Sensipar.
   # h/o HTN: controlled on PD. No HTN since coming to the MICU.
   # DM:  No antihyperglycemic agents on home med list.  Diet-controlled?
   - cont Gabapentin, ASA
   - Finger stick blood glucose QID
   - ISS
   # Chronic Back pain:
   - Home methadone, if BP will tolerate.
   # Depression:
   - Cont home Mirtazapine, paroxetine
   # Hyperlipidemia:
   - Cont home lipitor
   # FEN: K+ and Ca+ repleted overnight.
   - Continue to monitor electrolytes and replete when necessary.
   ICU Care
   Nutrition: Liquids and ADAT
   Glycemic Control:  ISS. Has not required it, as sugars have been well
   controlled.
   Lines:
   Presep Catheter - [**2191-8-16**] 09:03 PM
 d/c today
   PIVs x 2 from [**8-16**] and [**8-17**]
   Prophylaxis:
   DVT: SC UF Heparin
   Stress ulcer: PPI
   Communication:  ICU consent signed
   Code status: Full code
   Disposition: To medical floor today, with hopes that he will be ready
   to head home tomorrow.
   [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4
   14:21

2191-08-18 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Peritoneal fluid culture positive for group B Streptococci
   Hypocalcemic O/N despite calcium in dialysate. Repleted
   Hypokalemic. Now on K sliding scale
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-17**] 12:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-17**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2191-8-18**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-18**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 87 (82 - 118) bpm
   BP: 95/48(59) {91/40(52) - 133/83(86)} mmHg
   RR: 23 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 9 (6 - 21)mmHg
   CO/CI (Fick): (6.8 L/min) / (2.9 L/min/m2)
   SvO2: 67%
   Total In:
                                                                  1,290 mL
                                                                    201 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,190 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                 -1,650 mL
   Urine:
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -1,710 mL
                                                                  1,851 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   10.1 g/dL
   92 mg/dL
   10.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   42 mg/dL
   98 mEq/L
   138 mEq/L
   32.0 %
   12.7 K/uL
        [image002.jpg]
                             [**2191-8-16**]  09:20 PM
                             [**2191-8-17**]  05:15 AM
                             [**2191-8-17**]  03:52 PM
                             [**2191-8-17**]  09:13 PM
                             [**2191-8-17**]  10:28 PM
                             [**2191-8-18**]  02:23 AM
   WBC
   13.2
   13.8
   12.7
   Hct
   34.0
   34.9
   33.0
   34
   32.0
   Plt
   399
   336
   354
   Cr
   11.9
   10.5
   TropT
   0.25
   Glucose
   59
   165
   129
   115
   92
   Other labs: PT / PTT / INR:15.4/38.4/1.4, CK / CKMB /
   Troponin-T:763/11/0.25, Differential-Neuts:54.0 %, Band:24.0 %,
   Lymph:8.0 %, Mono:0.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, LDH:247
   IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   This is a 58 yo M with ESRD on HD since [**3-8**] then PD since [**9-10**], DM2,
   HTN, diastolic CHF, and h/o MSSA peritonitis in [**6-11**], who presented to
   ED with new onset abdominal pain since this morning, associated with
   nausea/vomiting and fevers. He was admitted to the ICU after
   parcentesis revealed bacterial peritonitis.
   # Bacterial peritonitis with bacteremia and septic shock:  Patient
   presents with symptoms on abdominal pain, fevers, N/V and paracentesis
   consistent with bacterial peritonitis.  He was originally started on
   Vanco/Ceftazidime for treatment of infection.  Gram stain and
   preliminary cultures from peritoneal fluid and blood show gram positive
   cocci in pairs and chains. Speciation on [**2191-8-18**] is group B
   Streptococci. Renal is following.
   - Closely monitor exam for signs of clinical change.
   - 3pm lactate, CPK, and CBC with manual diff.
   - F/u renal and ID recs.
   - Vanc trough 12.5 this AM. Continue Vanco 1gm daily in HD fluid for
   now. Consider changing to ceftazolin if it comes back as sensitive.
   - Re-check vanco level tomorrow AM (and subsequent 1-2 days); dose
   vanco accordingly.
   - D/c ceftazidime.
   - No need to start daptomyacin or linezolid given that micro gave
   preliminary opinion that organism looks like beta-strep and not like
   enterococcus.
   - f/u peritoneal dialysis
   - Monitor blood pressure and CVP closely. Consider adjusting PD for
   fluid balance or using levophed if necessary.
   - Morphine 2-4mg IV q6h PRN abdominal pain.
   # Hypoxemia:  Initially thought to be [**2-5**] fluid overload s/p 1L NS
   bolus, however, CXR showed no signs of increased infiltrates. Likely
   from COPD given + tobacco use.
   - albuterol PRN wheezing.
   - Cont O2 supplementation, wean as tolerated.
   # ESRD on PD :
   - 6 cycles PD per day with alternating 4.25% and 2.5%, 2.5L volume.
   - Heparin with PD.
   - f/u renal recs.
   - cont home Renagel, Calcitriol, Sensipar.
   # HTN: controlled on PD. BPs have been dipping low today, with PD.
   # DM:  No antihyperglycemic agents on med list.  Diet-controlled?
   - cont Gabapentin, ASA
   - Finger stick blood glucose QID
   - ISS
   # Chronic Back pain:
   - cont home methadone
   - hold home oxycodone, start Morphine IV PRN pain
   # Depression:
   - Cont home Mirtazapine, paroxetine
   # Hyperlipidemia:
   - Cont home lipitor
   # FEN:
   - Continue to monitor electrolytes and replete when necessary.
   ICU Care
   Nutrition: NPO
   Comments: Clear Liquids
   Glycemic Control: Comments: Humalog Insulin Sliding Scale
   Lines:
   Presep Catheter - [**2191-8-16**] 09:03 PM
   18 Gauge - [**2191-8-16**] 09:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: ICU consent signed
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2191-8-16**] 09:03 PM
   18 Gauge - [**2191-8-16**] 09:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-08-18 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Hypocalcemic O/N despite calcium in dialysate. Repleted.
   Hypokalemic. Now on K sliding scale.
   Subjective:
   Feels better this AM. Abdominal pain much improved, though still tender
   to deep palpation diffusely. No nausea or vomiting. Breathing is
   comfortable. Back pain is chronic and unchanged.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-17**] 12:30PM
   Today is day 3
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-17**]
   Heparin Sodium (Prophylaxis) - [**2191-8-18**]
   Flowsheet Data as of  [**2191-8-18**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 87 (82 - 118) bpm
   BP: 95/48(59) {91/40(52) - 133/83(86)} mmHg
   RR: 23 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 9 (6 - 21)mmHg
   CO/CI (Fick): (6.8 L/min) / (2.9 L/min/m2)
   SvO2: 67%
   Total In:
                                                                  1,290 mL
                                                                    201 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,190 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                 -1,650 mL
   Urine:
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -1,710 mL
                                                                  1,851 mL
   Respiratory support
   O2 Delivery Device: 5L by nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   10.1 g/dL
   92 mg/dL
   10.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   42 mg/dL
   98 mEq/L
   138 mEq/L
   32.0 %
   12.7 K/uL
        [image002.jpg]
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Differential-Neuts:54.0 %, Band:24.0 %, Lymph:8.0 %, Mono:0.0 %,
   Eos:2.0 % ([**8-17**], 5:15am)
                             [**2191-8-16**]  09:20 PM
                             [**2191-8-17**]  05:15 AM
                             [**2191-8-17**]  03:52 PM
                             [**2191-8-17**]  09:13 PM
                             [**2191-8-17**]  10:28 PM
                             [**2191-8-18**]  02:23 AM
   WBC
   13.2
   13.8
   12.7
   Hct
   34.0
   34.9
   33.0
   34
   32.0
   Plt
   399
   336
   354
   Cr
   11.9
   10.5
   TropT
   0.25
   Glucose
   59
   165
   129
   115
   92
   Other labs:
   PT / PTT / INR:15.4/38.4/1.4
   CK / CKMB / Troponin-T:763/11/0.25
   Lactic Acid:1.5 mmol/L (from 1.9, 4.5, 3.8, 3.4)
   LDH:247 IU/L
   CPK: 763 (from 925, 509, 333)
   PD fluid: WBC = 2055, RBC = 35, Polys = 98, Lymphs = 2, Monos = 0
   Vanco: 23.5 (ref range = [**10-24**])
   Micro:
[**2191-8-16**] 10:20 am BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
   Aerobic Bottle Gram Stain (Final [**2191-8-17**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2191-8-17**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
[**2191-8-16**] 9:00 am BLOOD CULTURE
   Blood Culture, Routine (Pending):
[**2191-8-16**] 11:45 am PERITONEAL FLUID
   GRAM STAIN (Final [**2191-8-16**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CHAINS.
   FLUID CULTURE (Preliminary):
      BETA STREPTOCOCCUS GROUP B.    SPARSE GROWTH.
   CXR:
   [**8-16**]
   No significant change with scattered areas of lung fibrosis better
   visualized
   on a prior CT chest. No definite evidence of pneumonia or CHF on this
   limited
   study.
   CT abdomen and pelvis without contrast:
   RLL consolidation increased. Abdomenal ascites. Equivocal bowel wall
   thickening.
   Assessment and Plan
   This is a 58 yo M with ESRD on HD since [**3-8**] then PD since [**9-10**], DM2,
   HTN, diastolic CHF, and h/o MSSA peritonitis in [**6-11**], who presented to
   ED with new onset abdominal pain since this morning, associated with
   nausea/vomiting and fevers. He was admitted to the ICU after
   parcentesis was suspicious for bacterial peritonitis.
   # Bacterial peritonitis with bacteremia:  Patient presents with
   symptoms on abdominal pain, fevers, N/V and paracentesis consistent
   with bacterial peritonitis.  He was originally started on
   Vanco/Ceftazidime for treatment of infection, but ceftazidime was
   d/c
ed one day later.  Vanc trough 23.5 this AM. Gram stain and
   cultures from group B strep in pairs and chains. Sensitivities not yet
   available. Abdominal pain significantly improved. Renal is following.
   - Continue periotoneal dialysis q6 with 4.25% diasylate.
   - f/u blood cultures from [**8-17**].
   - f/u PD fluid cells and culture sent this AM.
   - Continue to follow lactate, CPK, and CBC.
   - Vanco 2 gm daily in PD fluid, for 6h duration, beginning tomorrow.
   - Re-check vanco level tomorrow AM (them once weekly); dose vanco
   accordingly.
   - Morphine 2-4mg IV q6h PRN abdominal pain.
   # Hypotension: Likely due to low vascular tone in the setting of
   sepsis, and challenges of fluid balance with PD treatments. Has
   maintained SBP above 90 without pressors or fluid bolus.
   - Monitor blood pressure and CVP closely. Consider adjusting PD for
   fluid balance or using levophed if necessary.
   # Hypoxemia:  Initially thought to be [**2-5**] fluid overload s/p 1L NS
   bolus, however, CXR showed no signs of increased infiltrates. Likely
   from COPD given + tobacco use. Slight expiratory wheezes, which he
   received albuterol for yesterday. On 5L by NC with good oxygenation
   (98%).
   - Continue albuterol PRN wheezing.
   - Cont O2 supplementation, wean as tolerated.
   # ESRD on PD :
   - 12 cycles PD per day with 2.5%, 2.5L volume.
   - Heparin with PD.
   - f/u renal recs.
   - cont home Renagel, Calcitriol, Sensipar.
   # h/o HTN: controlled on PD. BPs have been dipping low today, with PD.
   # DM:  No antihyperglycemic agents on home med list.  Diet-controlled?
   - cont Gabapentin, ASA
   - Finger stick blood glucose QID
   - ISS
   # Chronic Back pain:
   - cont home methadone
   - hold home oxycodone, start Morphine IV PRN pain
   # Depression:
   - Cont home Mirtazapine, paroxetine
   # Hyperlipidemia:
   - Cont home lipitor
   # FEN: K+ and Ca+ repleted overnight.
   - Continue to monitor electrolytes and replete when necessary.
   ICU Care
   Nutrition: NPO with clear liquids
   Glycemic Control:  ISS
   Lines:
   Presep Catheter - [**2191-8-16**] 09:03 PM
   18 Gauge - [**2191-8-16**] 09:06 PM
   Prophylaxis:
   DVT: SC UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  ICU consent signed
   Code status: Full code
   Disposition: ICU
   [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4

2191-08-18 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Peritoneal fluid culture positive for group B Streptococci
   Hypocalcemic O/N despite calcium in dialysate. Repleted
   Hypokalemic. Now on K sliding scale
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-17**] 12:30PM
   Today is day 3
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-17**]
   Heparin Sodium (Prophylaxis) - [**2191-8-18**]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-18**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 87 (82 - 118) bpm
   BP: 95/48(59) {91/40(52) - 133/83(86)} mmHg
   RR: 23 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 9 (6 - 21)mmHg
   CO/CI (Fick): (6.8 L/min) / (2.9 L/min/m2)
   SvO2: 67%
   Total In:
                                                                  1,290 mL
                                                                    201 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,190 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                 -1,650 mL
   Urine:
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -1,710 mL
                                                                  1,851 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   10.1 g/dL
   92 mg/dL
   10.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   42 mg/dL
   98 mEq/L
   138 mEq/L
   32.0 %
   12.7 K/uL
        [image002.jpg]
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Differential-Neuts:54.0 %, Band:24.0 %, Lymph:8.0 %, Mono:0.0 %,
   Eos:2.0 % ([**8-17**], 5:15am)
                             [**2191-8-16**]  09:20 PM
                             [**2191-8-17**]  05:15 AM
                             [**2191-8-17**]  03:52 PM
                             [**2191-8-17**]  09:13 PM
                             [**2191-8-17**]  10:28 PM
                             [**2191-8-18**]  02:23 AM
   WBC
   13.2
   13.8
   12.7
   Hct
   34.0
   34.9
   33.0
   34
   32.0
   Plt
   399
   336
   354
   Cr
   11.9
   10.5
   TropT
   0.25
   Glucose
   59
   165
   129
   115
   92
   Other labs:
   PT / PTT / INR:15.4/38.4/1.4
   CK / CKMB / Troponin-T:763/11/0.25
   Lactic Acid:1.5 mmol/L (from 1.9, 4.5, 3.8, 3.4)
   LDH:247 IU/L
   CPK: 763 (from 925, 509, 333)
   Vanco: 23.5 (ref range = [**10-24**])
   PD fluid: WBC = 2055, RBC = 35, Polys = 98, Lymphs = 2, Monos = 0
   Micro:
   Assessment and Plan
   This is a 58 yo M with ESRD on HD since [**3-8**] then PD since [**9-10**], DM2,
   HTN, diastolic CHF, and h/o MSSA peritonitis in [**6-11**], who presented to
   ED with new onset abdominal pain since this morning, associated with
   nausea/vomiting and fevers. He was admitted to the ICU after
   parcentesis revealed bacterial peritonitis.
   # Bacterial peritonitis with bacteremia and septic shock:  Patient
   presents with symptoms on abdominal pain, fevers, N/V and paracentesis
   consistent with bacterial peritonitis.  He was originally started on
   Vanco/Ceftazidime for treatment of infection.  Gram stain and
   preliminary cultures from peritoneal fluid and blood show gram positive
   cocci in pairs and chains. Speciation on [**2191-8-18**] is group B
   Streptococci. Renal is following.
   - Closely monitor exam for signs of clinical change.
   - 3pm lactate, CPK, and CBC with manual diff.
   - F/u renal and ID recs.
   - Vanc trough 12.5 this AM. Continue Vanco 1gm daily in HD fluid for
   now. Consider changing to ceftazolin if it comes back as sensitive.
   - Re-check vanco level tomorrow AM (and subsequent 1-2 days); dose
   vanco accordingly.
   - D/c ceftazidime.
   - No need to start daptomyacin or linezolid given that micro gave
   preliminary opinion that organism looks like beta-strep and not like
   enterococcus.
   - f/u peritoneal dialysis
   - Monitor blood pressure and CVP closely. Consider adjusting PD for
   fluid balance or using levophed if necessary.
   - Morphine 2-4mg IV q6h PRN abdominal pain.
   # Hypoxemia:  Initially thought to be [**2-5**] fluid overload s/p 1L NS
   bolus, however, CXR showed no signs of increased infiltrates. Likely
   from COPD given + tobacco use.
   - albuterol PRN wheezing.
   - Cont O2 supplementation, wean as tolerated.
   # ESRD on PD :
   - 6 cycles PD per day with alternating 4.25% and 2.5%, 2.5L volume.
   - Heparin with PD.
   - f/u renal recs.
   - cont home Renagel, Calcitriol, Sensipar.
   # HTN: controlled on PD. BPs have been dipping low today, with PD.
   # DM:  No antihyperglycemic agents on med list.  Diet-controlled?
   - cont Gabapentin, ASA
   - Finger stick blood glucose QID
   - ISS
   # Chronic Back pain:
   - cont home methadone
   - hold home oxycodone, start Morphine IV PRN pain
   # Depression:
   - Cont home Mirtazapine, paroxetine
   # Hyperlipidemia:
   - Cont home lipitor
   # FEN:
   - Continue to monitor electrolytes and replete when necessary.
   ICU Care
   Nutrition: NPO
   Comments: Clear Liquids
   Glycemic Control: Comments: Humalog Insulin Sliding Scale
   Lines:
   Presep Catheter - [**2191-8-16**] 09:03 PM
   18 Gauge - [**2191-8-16**] 09:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: ICU consent signed
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2191-8-16**] 09:03 PM
   18 Gauge - [**2191-8-16**] 09:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-08-18 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Peritoneal fluid culture positive for group B Streptococci.
   Hypocalcemic O/N despite calcium in dialysate. Repleted.
   Hypokalemic. Now on K sliding scale.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-17**] 12:30PM
   Today is day 3
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-17**]
   Heparin Sodium (Prophylaxis) - [**2191-8-18**]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-8-18**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 87 (82 - 118) bpm
   BP: 95/48(59) {91/40(52) - 133/83(86)} mmHg
   RR: 23 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 9 (6 - 21)mmHg
   CO/CI (Fick): (6.8 L/min) / (2.9 L/min/m2)
   SvO2: 67%
   Total In:
                                                                  1,290 mL
                                                                    201 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,190 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                 -1,650 mL
   Urine:
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -1,710 mL
                                                                  1,851 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   10.1 g/dL
   92 mg/dL
   10.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   42 mg/dL
   98 mEq/L
   138 mEq/L
   32.0 %
   12.7 K/uL
        [image002.jpg]
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Differential-Neuts:54.0 %, Band:24.0 %, Lymph:8.0 %, Mono:0.0 %,
   Eos:2.0 % ([**8-17**], 5:15am)
                             [**2191-8-16**]  09:20 PM
                             [**2191-8-17**]  05:15 AM
                             [**2191-8-17**]  03:52 PM
                             [**2191-8-17**]  09:13 PM
                             [**2191-8-17**]  10:28 PM
                             [**2191-8-18**]  02:23 AM
   WBC
   13.2
   13.8
   12.7
   Hct
   34.0
   34.9
   33.0
   34
   32.0
   Plt
   399
   336
   354
   Cr
   11.9
   10.5
   TropT
   0.25
   Glucose
   59
   165
   129
   115
   92
   Other labs:
   PT / PTT / INR:15.4/38.4/1.4
   CK / CKMB / Troponin-T:763/11/0.25
   Lactic Acid:1.5 mmol/L (from 1.9, 4.5, 3.8, 3.4)
   LDH:247 IU/L
   CPK: 763 (from 925, 509, 333)
   PD fluid: WBC = 2055, RBC = 35, Polys = 98, Lymphs = 2, Monos = 0
   Vanco: 23.5 (ref range = [**10-24**])
   Micro:
[**2191-8-16**] 10:20 am BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
   Aerobic Bottle Gram Stain (Final [**2191-8-17**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2191-8-17**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
[**2191-8-16**] 9:00 am BLOOD CULTURE
   Blood Culture, Routine (Pending):
[**2191-8-16**] 11:45 am PERITONEAL FLUID
   GRAM STAIN (Final [**2191-8-16**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CHAINS.
   FLUID CULTURE (Preliminary):
      BETA STREPTOCOCCUS GROUP B.    SPARSE GROWTH.
   CXR:
   [**8-16**]
   No significant change with scattered areas of lung fibrosis better
   visualized
   on a prior CT chest. No definite evidence of pneumonia or CHF on this
   limited
   study.
   CT abdomen and pelvis without contrast:
   RLL consolidation increased. Abdomenal ascites. Equivocal bowel wall
   thickening.
   Assessment and Plan
   This is a 58 yo M with ESRD on HD since [**3-8**] then PD since [**9-10**], DM2,
   HTN, diastolic CHF, and h/o MSSA peritonitis in [**6-11**], who presented to
   ED with new onset abdominal pain since this morning, associated with
   nausea/vomiting and fevers. He was admitted to the ICU after
   parcentesis was suspicious for bacterial peritonitis.
   # Bacterial peritonitis with bacteremia:  Patient presents with
   symptoms on abdominal pain, fevers, N/V and paracentesis consistent
   with bacterial peritonitis.  He was originally started on
   Vanco/Ceftazidime for treatment of infection.  Gram stain and cultures
   from group B strep in pairs and chains. Sensitivities not yet
   available. Abdominal pain significantly improved. Renal is following.
   - Pull peritoneal dialysis catheter because of risk of GBS biofilms?
   Versus continue peritoneal dialysis today.
   - Closely monitor exam for signs of clinical change.
   - 3pm lactate, CPK, and CBC.
   - F/u renal and ID recs.
   - Vanc trough 23.5 this AM. Vanco .5gm daily in HD fluid for now.
   Consider changing to ceftazolin if it comes back as sensitive.
   - Re-check vanco level tomorrow AM (and subsequent 1-2 days); dose
   vanco accordingly.
   - No need to treat with daptomyacin or linezolid given that there
s no
   evidence of enterococcus.
   - Morphine 2-4mg IV q6h PRN abdominal pain.
   # Hypotension: Likely due to low vascular tone in the setting of
   sepsis, and challenges of fluid balance with PD treatments. Has
   maintained SBP above 90 without pressors or fluid bolus.
   - Monitor blood pressure and CVP closely. Consider adjusting PD for
   fluid balance or using levophed if necessary.
   # Hypoxemia:  Initially thought to be [**2-5**] fluid overload s/p 1L NS
   bolus, however, CXR showed no signs of increased infiltrates. Likely
   from COPD given + tobacco use.
   - albuterol PRN wheezing.
   - Cont O2 supplementation, wean as tolerated.
   # ESRD on PD :
   - 6 cycles PD per day with alternating 4.25% and 2.5%, 2.5L volume.
   - Heparin with PD.
   - f/u renal recs.
   - cont home Renagel, Calcitriol, Sensipar.
   # h/o HTN: controlled on PD. BPs have been dipping low today, with PD.
   # DM:  No antihyperglycemic agents on home med list.  Diet-controlled?
   - cont Gabapentin, ASA
   - Finger stick blood glucose QID
   - ISS
   # Chronic Back pain:
   - cont home methadone
   - hold home oxycodone, start Morphine IV PRN pain
   # Depression:
   - Cont home Mirtazapine, paroxetine
   # Hyperlipidemia:
   - Cont home lipitor
   # FEN: K+ and Ca+ repleted overnight.
   - Continue to monitor electrolytes and replete when necessary.
   ICU Care
   Nutrition: NPO with clear liquids
   Glycemic Control:  ISS
   Lines:
   Presep Catheter - [**2191-8-16**] 09:03 PM
   18 Gauge - [**2191-8-16**] 09:06 PM
   Prophylaxis:
   DVT: SC UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  ICU consent signed
   Code status: Full code
   Disposition: ICU
   [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4

2191-08-18 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Peritoneal fluid culture positive for group B Streptococci.
   Hypocalcemic O/N despite calcium in dialysate. Repleted.
   Hypokalemic. Now on K sliding scale.
   Subjective:
   Feels better this AM. Abdominal pain much improved, though still tender
   to deep palpation diffusely. No nausea or vomiting. Breathing is
   comfortable. Back pain is chronic and unchanged.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-8-17**] 12:30PM
   Today is day 3
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-8-17**]
   Heparin Sodium (Prophylaxis) - [**2191-8-18**]
   Flowsheet Data as of  [**2191-8-18**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 87 (82 - 118) bpm
   BP: 95/48(59) {91/40(52) - 133/83(86)} mmHg
   RR: 23 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 9 (6 - 21)mmHg
   CO/CI (Fick): (6.8 L/min) / (2.9 L/min/m2)
   SvO2: 67%
                       Total In:
                                                                  1,290 mL
                                                                    201 mL
   PO:
                                                                    100 mL
                       TF:
   IVF:
                                                                  1,190 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                 -1,650 mL
   Urine:
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -1,710 mL
                                                                  1,851 mL
   Respiratory support
   O2 Delivery Device: 5L by nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   10.1 g/dL
   92 mg/dL
   10.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   42 mg/dL
   98 mEq/L
   138 mEq/L
   32.0 %
   12.7 K/uL
        [image002.jpg]
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Differential-Neuts:54.0 %, Band:24.0 %, Lymph:8.0 %, Mono:0.0 %,
   Eos:2.0 % ([**8-17**], 5:15am)
                             [**2191-8-16**]  09:20 PM
                             [**2191-8-17**]  05:15 AM
                             [**2191-8-17**]  03:52 PM
                             [**2191-8-17**]  09:13 PM
                             [**2191-8-17**]  10:28 PM
                             [**2191-8-18**]  02:23 AM
   WBC
   13.2
   13.8
   12.7
   Hct
   34.0
   34.9
   33.0
   34
   32.0
   Plt
   399
   336
   354
   Cr
   11.9
   10.5
   TropT
   0.25
   Glucose
   59
   165
   129
   115
   92
   Other labs:
   PT / PTT / INR:15.4/38.4/1.4
   CK / CKMB / Troponin-T:763/11/0.25
   Lactic Acid:1.5 mmol/L (from 1.9, 4.5, 3.8, 3.4)
   LDH:247 IU/L
   CPK: 763 (from 925, 509, 333)
   PD fluid: WBC = 2055, RBC = 35, Polys = 98, Lymphs = 2, Monos = 0
   Vanco: 23.5 (ref range = [**10-24**])
   Micro:
[**2191-8-16**] 10:20 am BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
   Aerobic Bottle Gram Stain (Final [**2191-8-17**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2191-8-17**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
[**2191-8-16**] 9:00 am BLOOD CULTURE
   Blood Culture, Routine (Pending):
[**2191-8-16**] 11:45 am PERITONEAL FLUID
   GRAM STAIN (Final [**2191-8-16**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CHAINS.
   FLUID CULTURE (Preliminary):
      BETA STREPTOCOCCUS GROUP B.    SPARSE GROWTH.
   CXR:
   [**8-16**]
   No significant change with scattered areas of lung fibrosis better
   visualized
   on a prior CT chest. No definite evidence of pneumonia or CHF on this
   limited
   study.
   CT abdomen and pelvis without contrast:
   RLL consolidation increased. Abdomenal ascites. Equivocal bowel wall
   thickening.
   Assessment and Plan
   This is a 58 yo M with ESRD on HD since [**3-8**] then PD since [**9-10**], DM2,
   HTN, diastolic CHF, and h/o MSSA peritonitis in [**6-11**], who presented to
   ED with new onset abdominal pain since this morning, associated with
   nausea/vomiting and fevers. He was admitted to the ICU after
   parcentesis was suspicious for bacterial peritonitis.
   # Bacterial peritonitis with bacteremia:  Patient presents with
   symptoms on abdominal pain, fevers, N/V and paracentesis consistent
   with bacterial peritonitis.  He was originally started on
   Vanco/Ceftazidime for treatment of infection.  Gram stain and cultures
   from group B strep in pairs and chains. Sensitivities not yet
   available. Abdominal pain significantly improved. Renal is following.
   - Pull peritoneal dialysis catheter because of risk of GBS biofilms?
   Versus continue peritoneal dialysis today.
   - Closely monitor exam for signs of clinical change.
   - 3pm lactate, CPK, and CBC.
   - F/u renal and ID recs.
   - Vanc trough 23.5 this AM. Vanco .5gm daily in HD fluid for now.
   Consider changing to ceftazolin if it comes back as sensitive.
   - Re-check vanco level tomorrow AM (and subsequent 1-2 days); dose
   vanco accordingly.
   - No need to treat with daptomyacin or linezolid given that there
s no
   evidence of enterococcus.
   - Morphine 2-4mg IV q6h PRN abdominal pain.
   # Hypotension: Likely due to low vascular tone in the setting of
   sepsis, and challenges of fluid balance with PD treatments. Has
   maintained SBP above 90 without pressors or fluid bolus.
   - Monitor blood pressure and CVP closely. Consider adjusting PD for
   fluid balance or using levophed if necessary.
   # Hypoxemia:  Initially thought to be [**2-5**] fluid overload s/p 1L NS
   bolus, however, CXR showed no signs of increased infiltrates. Likely
   from COPD given + tobacco use. Slight expiratory wheezes, which he
   received albuterol for yesterday. On 5L by NC with good oxygenation
   (98%).
   - Continue albuterol PRN wheezing.
   - Cont O2 supplementation, wean as tolerated.
   # ESRD on PD :
   - 12 cycles PD per day with 2.5%, 2.5L volume.
   - Heparin with PD.
   - f/u renal recs.
   - cont home Renagel, Calcitriol, Sensipar.
   # h/o HTN: controlled on PD. BPs have been dipping low today, with PD.
   # DM:  No antihyperglycemic agents on home med list.  Diet-controlled?
   - cont Gabapentin, ASA
   - Finger stick blood glucose QID
   - ISS
   # Chronic Back pain:
   - cont home methadone
   - hold home oxycodone, start Morphine IV PRN pain
   # Depression:
   - Cont home Mirtazapine, paroxetine
   # Hyperlipidemia:
   - Cont home lipitor
   # FEN: K+ and Ca+ repleted overnight.
   - Continue to monitor electrolytes and replete when necessary.
   ICU Care
   Nutrition: NPO with clear liquids
   Glycemic Control:  ISS
   Lines:
   Presep Catheter - [**2191-8-16**] 09:03 PM
   18 Gauge - [**2191-8-16**] 09:06 PM
   Prophylaxis:
   DVT: SC UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  ICU consent signed
   Code status: Full code
   Disposition: ICU
   [**First Name8 (NamePattern2) 3990**] [**Last Name (NamePattern1) 3991**], MS4